US07018988B2
(2S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(3,4-dimethoxybenzyl)-4-methylene-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, [1,1′-biphenyl]-4-carbonyl chloride, and 3,4-dimethoxybenzylamine the title compound was obtained in 72% purity by LC/MS. MS(ESI+): m/z=457.2.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-(3,4-dimethoxybenzyl)-4-methylene-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=C)C(=O)NCC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C28H28N2O4
